US07842713B2
4-(Acetyloxy)-1-benzothiophene-6-carboxylate was dissolved in absolute ethanol (200 mL). Potassium carbonate (14 g, 0.1 mol) was added. The reaction mixture was stirred for 3 h at 60° C. and diluted with 200 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 100 mL of dichloromethane. The combined solutions were washed by 200 mL of a 10% aqueous solution of citric acid and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (150×100 mm) with hexane/ethyl acetate mixture, 2:1 as eluent to give 6.5 g (29 mmol, 37%) of ethyl 4-hydroxy-1-benzothiophene-6-carboxylate as a cream-colored solid.

reactant | 4-(Acetyloxy)-1-benzothiophene-6-carboxylate | C(C)(=O)OC1=CC(=CC2=C1C=CS2)C(=O)[O-]
reactant | Potassium carbonate | 0.1 mol, 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | ethyl 4-hydroxy-1-benzothiophene-6-carboxylate | 29 mmol, 6.5 g, 37% | OC1=CC(=CC2=C1C=CS2)C(=O)OCC | C11H10O3S
